US04495190
Preparation of 4-(2-amino-6-chloropurin-9-yl)-2-fluorobutyric acid ethyl ester
4-Bromo-2-fluorobutyric acid ethyl ester (0.23 g), 2-amino-6-chloropurine (0.19 g) and anhydrous potassium carbonate (0.15 g) were mixed and stirred in dimethylformamide (3.7 ml) at room temperature for two days. The solution was filtered and evaporated in vacuo. The residue was triturated with chloroform (4+2 ml) and the clear chloroform solution was evaporated to give the desired product (0.24 g, 72%). TLC (silica gel, i-propanol-water-conc. ammonia 8-1-1): Rf =0.76. NMR (CDCl3, Me4Si)δ: 1.26 (t, CH3); 2.4-2.5 (m, CH2); 4.2-4.3 (t and q, NCH2 and CO2CH2); 4.77 and 5.03 (CHF, J=51 Hz); 5.2 (NH2); 7.77 (8-CH).

reactant | 4-Bromo-2-fluorobutyric acid ethyl ester | 0.23 g | C(C)OC(C(CCBr)F)=O | C6H10BrFO2
reactant | 2-amino-6-chloropurine | 0.19 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3.7 ml | CN(C=O)C | C3H7NO
product | 4-(2-amino-6-chloropurin-9-yl)-2-fluorobutyric acid ethyl ester | 0.24 g, 72% | C(C)OC(C(CCN1C2=NC(=NC(=C2N=C1)Cl)N)F)=O | C11H13ClFN5O2
